US05705698
The first filtrate from the separation of 1,2,6-trinitro-o-xylene was extracted three times with 80 ml portions of methylene chloride. The extracts were combined and the volatiles were evaporated to yield an oily mixture of 3,5-dinitro-o-xylene with both of the trinitro-o-xylene isomers. This oil was crystallized from 12 parts of isopropyl alcohol to afford 27.4 g (91.7% yield) of pure 1,4,6-trinitro-o-xylene having a melting point of 72° C. as given by Crossly et al.

reactant | 3,5-dinitro-o-xylene | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])C)C | C8H8N2O4
reactant | trinitro-o-xylene | [N+](=O)([O-])C1=C(C(=C(C(=C1)C)C)[N+](=O)[O-])[N+](=O)[O-] | C8H7N3O6
product | 1,4,6-trinitro-o-xylene | 27.4 g, 91.7% yield | [N+](=O)([O-])C1(C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C)C | C8H9N3O6
